US07705023B2
5-(4-tert-Butylphenyl)-1-(4-methyl-3-nitrophenyl)indole-2-carboxylic acid
The title compound was prepared in accordance with Example 1 using 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester and 4-bromo-1-methyl-2-nitrobenzene.

reactant | 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)C(C)(C)C | C21H23NO2
reactant | 4-bromo-1-methyl-2-nitrobenzene | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
product | 5-(4-tert-Butylphenyl)-1-(4-methyl-3-nitrophenyl)indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C2C=C(N(C2=CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-])C(=O)O | C26H24N2O4
